US06455708B1
1-Fluoro-2-fluoromethyl-3-butyn-2-yl Propanesulfonate
An amount (2.4 g) of 1-fluoro-2-fluoromethyl-3-butyn-2-ol was dissolved in tetrahydrofuran (20 ml); to the solution under cooling with ice, 60% oily sodium hydride (0.96 g) was added under a nitrogen atmosphere. After stirring for 30 minutes under cooling with ice, propanesulfonyl chloride (2.2 ml) was added dropwise. The mixture was stirred for 5 hours while its temperature was raised to room temperature. Water was added to the reaction mixture, followed by extraction with ether. The extract was washed with water and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; 30% ethyl acetate/hexane) to give the titled compound (4.1 g).

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-ol | 2.4 g | FCC(C#C)(O)CF | C5H6F2O
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | propanesulfonyl chloride | 2.2 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-Fluoro-2-fluoromethyl-3-butyn-2-yl Propanesulfonate | 4.1 g | C(CC)S(=O)(=O)OC(CF)(C#C)CF | C8H12F2O3S
